US04544654
N-[2-(Diethylamino)ethyl]-4-[(ethylsulfonyl)amino]benzamide hydrochloride
Dissolve 4.97 g (0.22 moles) 4-[(ethylsulfonyl)amino]benzoyl chloride in 25 ml THF. Stir under N2 at -10° C. To the solution add 3.0 ml (0.22 mole) N,N-diethylethylenediamine dropwise. Follow the progress of the reaction by thin layer chromatography on silica gel (acetonitrile:methanol:ammonium hydroxide, 85:10:5). When the reaction is complete, remove the solvents in vacuo. Dissolve the gummy residue in refluxing ethanol and chill to produce white crystals. Filter the precipitate to obtain the title compound.

reactant | 4-[(ethylsulfonyl)amino]benzoyl chloride | 0.22 moles, 4.97 g | C(C)S(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C9H10ClNO3S
reactant | N,N-diethylethylenediamine | 0.22 mole, 3.0 ml | C(C)N(CCN)CC | C6H16N2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-[2-(Diethylamino)ethyl]-4-[(ethylsulfonyl)amino]benzamide hydrochloride | Cl.C(C)N(CCNC(C1=CC=C(C=C1)NS(=O)(=O)CC)=O)CC | InChI=1S/C15H25N3O3S.ClH/c1-4-18(5-2)12-11-16-15(19)13-7-9-14(10-8-13)17-22(20,21)6-3;/h7-10,17H,4-6,11-12H2,1-3H3,(H,16,19);1H
